US04877793
Dimethyl sulphate (3.9 ml) was added to a stirred solution of ethyl 7-hydroxythieno[3,2-b]-pyridine-6-carboxylate (4.63 g) and potassium hydroxide (3.5 g) in water (50 ml) at 0°-5°. More water (20 ml) was added and the mixture was stirred at ambient temperature for 24 hours. The solid product was collected by filtration, washed with water and dried to give the novel compound ethyl 4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate, m.p. 122°-128°.

reactant | Dimethyl sulphate | 3.9 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ethyl 7-hydroxythieno[3,2-b]-pyridine-6-carboxylate | 4.63 g | OC1=C2C(=NC=C1C(=O)OCC)C=CS2 | C10H9NO3S
reactant | potassium hydroxide | 3.5 g | [OH-].[K+]
solvent | water | 50 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | ethyl 4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | CN1C2=C(C(C(=C1)C(=O)OCC)=O)SC=C2 | C11H11NO3S
